US04661635
A 50 g (0.27 mole) sample of 2-bromobenzaldehyde was added to 33.3 g of dry potassium t-butoxide under N2 at -78°. A 48.9 g (0.27 mole) sample of ethyl 2-bromopropionate was added slowly with stirring. The mixture was allowed to warm to room temperature and stir for 18 hr. The mixture was partitioned between ether and dilute HCl. The ether was washed with brine, dried (MgSO4) and the solvent evaporated in vacuo. The residue was distilled under vacuum to give 53.2 g (69% yield) of ethyl 3-(2-bromophenyl)-2-methyloxiraneacetate as an oil, bp 110°-120° C., 0.005 mm/Hg.

reactant | 2-bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | potassium t-butoxide | 33.3 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | ethyl 3-(2-bromophenyl)-2-methyloxiraneacetate | 53.2 g, 69% yield | BrC1=C(C=CC=C1)C1C(O1)(CC(=O)OCC)C | C13H15BrO3
